US05180735
As in Example 54, 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol (200 mg) was allowed to react with 4-methylbenzyl bromide (1.12 g) to give 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(4-methylbenzyl)methylsulfoniomethyl-1,4-cyclohexanediol bromide (198 mg: yield 56%) as colorless powder.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylthiomethyl-1,4-cyclohexanediol | 200 mg | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSC | C17H30O4S
reactant | 4-methylbenzyl bromide | 1.12 g | CC1=CC=C(CBr)C=C1 | C8H9Br
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(4-methylbenzyl)methylsulfoniomethyl-1,4-cyclohexanediol bromide | 198 mg, yield 56% | [Br-].O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)C[SH+]CCC1=CC=C(C=C1)C | InChI=1S/C25H38O4S.BrH/c1-17(2)6-11-21-24(4,29-21)23-22(28-5)20(26)12-14-25(23,27)16-30-15-13-19-9-7-18(3)8-10-19;/h6-10,20-23,26-27H,11-16H2,1-5H3;1H
